US04262004
A mixture of 4 parts of α-(4-chlorophenyl)2-imino-3-benzothiazolineethanol and 23 parts of concentrated sulfuric acid is stirred first for 30 minutes in an ice-bath and further for 1 h. 30 at room temperature. The reaction mixture is poured onto crushed ice, alkalized with ammonium hydroxide and the product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The solid residue is crystallized from 2-propanol, yielding 1.6 parts of 2-(4-chlorophenyl)-2,3-dihydroimidazo[2,1-b]benzothiazole; mp. 143.3° C.

reactant | α-(4-chlorophenyl)2-imino-3-benzothiazolineethanol | ClC1=CC=C(C=C1)C(CN1C(SC2=C1C=CC=C2)=N)O | C15H13ClN2OS
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2-(4-chlorophenyl)-2,3-dihydroimidazo[2,1-b]benzothiazole | ClC1=CC=C(C=C1)C1N=C2SC3=C(N2C1)C=CC=C3 | C15H11ClN2S
